US20010037020A1
To a mixture of 200 mL of THF and 280 mL of 1 M aqueous potassium hydroxide solution at 0° C. was added a solution of 4.59 g (22.4 mmol) of cis-3-acetoxy-4-phenylazetidin-2-one in 265 mil of THF via a dropping funnel over a 40 min period. The solution was stirred a 0° C. for 1 h and 100 mL of water and 100 mL of saturated sodium bicarbonate were added. The mixture was extracted with four 200 mL portions of ethyl acetate and the combined organic layers were dried over sodium sulfate and concentrated to give 3.54 g (97%) of racemic cis-3-hydroxy-4-phenylazetidin-2-one as white crystals, m.p. 147-149° C. This material was resolved into its enantiomers by recrystallization of its 2-methoxy-2-2(trifluoromethyl)phenylacetic ester from hexane acetone followed by hydrolysis [α]25Hg177° C.

reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | potassium hydroxide | 1 M, 280 mL | [OH-].[K+]
reactant | cis-3-acetoxy-4-phenylazetidin-2-one | 22.4 mmol, 4.59 g | C(C)(=O)O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C11H11NO3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | racemic cis-3-hydroxy-4-phenylazetidin-2-one | 3.54 g, 97% | O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C9H9NO2
